### ISSUE TITLE
D6: HexLLLMathlib Euclidean headline for the dispatched lll

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#6617]
## Current state

D5c (#6616) proves the dispatched `lll` headline theorems (η = 11/20) in HexLLL. The HexLLLMathlib Euclidean headline `reduced_first_row_norm_sq_le_of_mem_latticeSubmodule` was updated in #6604's SPEC to the η = 11/20 constant.

## Deliverables

Per `SPEC/Libraries/hex-lll-mathlib.md` §"Headline correctness theorem":

1. Establish the Euclidean short-vector bound for the dispatched `lll` with Mathlib's `EuclideanSpace` norm and `Submodule ℤ` membership, at `α = 1/(δ − 121/400)` — holding regardless of dispatch path (reuses the η-generalized `short_vector_bound_of_size_bound` / `lll_short_vector` from D1/D5c).
2. Keep/add the classical statement on `lllNative` at `α = 1/(δ − 1/4)`.

No `*-mathlib` proof term may depend on a `sorry`-bearing Mathlib-free lemma. Zero `sorry`/`axiom`.

## Library placement

HexLLLMathlib/Basic.lean.

1. **SPEC §:** `hex-lll-mathlib.md` §"Headline correctness theorem" (#6604).
2. **Mathlib?** Yes — the Euclidean/Submodule restatement lives in the bridge library.
3. **Mathlib status:** reuses existing `reduced_first_row_norm_sq_le_of_mem_latticeSubmodule` structure.
4. **Missing infra:** D5c (#6616).

## Context

- SPEC: SPEC/Libraries/hex-lll-mathlib.md, SPEC/Libraries/hex-lll.md (#6604).

## Verification

- `lake build` green for HexLLLMathlib; headline theorem proved for dispatched `lll`.
- Zero `sorry`/`axiom`.

## Out of scope

- Conformance (D7), bench (D8).

library: HexLLLMathlib
depends-on: #6616

**Comment by kim-em** [comment]
Claimed by session `a7cc95a2-9ccb-4d17-b44a-5fc192acedf2` on branch `agent/a7cc95a2`

**Comment by kim-em** [comment]
Both Euclidean headline theorems requested by this directive are
already proven on the dispatched `Hex.lll` and `Hex.lllNative` in
`HexLLLMathlib/Independent.lean`, shipped by D5b (#6633) which routed
the dispatched `lll` post-conditions through `certCheck_sound` and
allowed the unconditional Euclidean headlines (introduced as part of
the η-parameterization sweep in #6624) to compose abstractly without
edits.

**Deliverable 1 — dispatched `lll` Euclidean headline at α = 1/(δ − 121/400)** —
`lll_first_row_norm_sq_le_unconditional`
(`HexLLLMathlib/Independent.lean:2537-2562`):

```lean
theorem lll_first_row_norm_sq_le_unconditional
    (b : Hex.Matrix Int n m) (δ : Rat)
    (hδ : (121 / 400 : Rat) < δ) (hδ' : δ ≤ 1) (hn : 1 ≤ n)
    (hind : b.independent)
    (x : Fin m → ℤ) (hx : x ∈ latticeSubmodule b) (hx0 : x ≠ 0) :
    ‖intRowToEuclidean
        (Hex.Matrix.row (Hex.lll b δ hδ hδ' hn hind)
          ⟨0, Nat.lt_of_lt_of_le Nat.zero_lt_one hn⟩)‖ ^ 2 ≤
      (((1 / (δ - 121 / 400)) ^ (n - 1) : Rat) : ℝ) *
        ‖intVectorToEuclidean x‖ ^ 2 := by
  have hred : Hex.isLLLReduced (Hex.lll b δ hδ hδ' hn hind) δ (11 / 20) :=
    Hex.lll_isLLLReduced b δ hδ hδ' hn hind
  have hind' : (Hex.lll b δ hδ hδ' hn hind).independent :=
    Hex.lll_independent b δ hδ hδ' hn hind
  have hx_lll : x ∈ latticeSubmodule (Hex.lll b δ hδ hδ' hn hind) :=
    (lll_mem_latticeSubmodule_iff b δ hδ hδ' hn hind x).mpr hx
  have hδη : (11 / 20 : Rat) * (11 / 20) < δ := by
    have : (11 / 20 : Rat) * (11 / 20) = 121 / 400 := by grind
    grind
  have hbnd := reduced_first_row_norm_sq_le_of_mem_latticeSubmodule
    (Hex.lll b δ hδ hδ' hn hind) δ (11 / 20) (by grind) hδη hδ' hn hind'
    hred x hx_lll hx0
  have hηη : (11 / 20 : Rat) * (11 / 20) = 121 / 400 := by grind
  simpa [hηη] using hbnd
```

The Mathlib-Euclidean dispatched-`lll` bound holds **regardless of
dispatch path**: it consumes `Hex.lll_isLLLReduced` (which itself
case-splits on `LLLProvider.dispatch` and returns the `(δ, 11/20)`-reduced
post-condition either via `lllNative_isLLLReduced` + `isLLLReduced.mono_η`
on the native branch or via `dispatch_some_property` on the certified
branch) and `lll_mem_latticeSubmodule_iff` (which case-splits on the
same dispatch and returns the same-lattice post-condition either via
`lllNative_memLattice_iff` or via `dispatch_some_property.1`). Neither
the dispatched headline nor the conditional Euclidean workhorse
(`reduced_first_row_norm_sq_le_of_mem_latticeSubmodule`,
`HexLLLMathlib/Basic.lean:351-376`) sees the certified internals; the
only trusted bridge is `certCheck_sound`
(`HexLLLMathlib/Basic.lean:777-788`).

**Deliverable 2 — classical `lllNative` Euclidean headline at α = 1/(δ − 1/4)** —
`lllNative_first_row_norm_sq_le_unconditional`
(`HexLLLMathlib/Independent.lean:2509-2531`):

```lean
theorem lllNative_first_row_norm_sq_le_unconditional
    (b : Hex.Matrix Int n m) (δ : Rat)
    (hδ : (1 : Rat) / 4 < δ) (hδ' : δ ≤ 1) (hn : 1 ≤ n)
    (hind : b.independent)
    (x : Fin m → ℤ) (hx : x ∈ latticeSubmodule b) (hx0 : x ≠ 0) :
    ‖intRowToEuclidean
        (Hex.Matrix.row (Hex.lllNative b δ hδ hδ' hn)
          ⟨0, Nat.lt_of_lt_of_le Nat.zero_lt_one hn⟩)‖ ^ 2 ≤
      (((1 / (δ - 1 / 4)) ^ (n - 1) : Rat) : ℝ) *
        ‖intVectorToEuclidean x‖ ^ 2 := by
  have hred : Hex.isLLLReduced (Hex.lllNative b δ hδ hδ' hn) δ (1 / 2) :=
    Hex.lllNative_isLLLReduced b δ hδ hδ' hn hind
  have hind' : (Hex.lllNative b δ hδ hδ' hn).independent :=
    Hex.lllNative_independent b δ hδ hδ' hn hind
  have hx_lll : x ∈ latticeSubmodule (Hex.lllNative b δ hδ hδ' hn) :=
    (lllNative_mem_latticeSubmodule_iff b δ hδ hδ' hn x).mpr hx
  have hbnd := reduced_first_row_norm_sq_le_of_mem_latticeSubmodule
    (Hex.lllNative b δ hδ hδ' hn) δ (1 / 2) (by grind) (by grind) hδ' hn hind'
    hred x hx_lll hx0
  have hηη : (1 / 2 : Rat) * (1 / 2) = 1 / 4 := by grind
  rw [hηη] at hbnd
  exact hbnd
```

Both consume the η-generalized conditional Euclidean workhorse
`reduced_first_row_norm_sq_le_of_mem_latticeSubmodule`
(`HexLLLMathlib/Basic.lean:351-376`) — the
`EuclideanSpace`/`Submodule ℤ` restatement of
`Hex.short_vector_bound_of_size_bound` at the slot the SPEC describes —
instantiated at η = 11/20 (Deliverable 1) and η = 1/2 (Deliverable 2).

The actual placement is `HexLLLMathlib/Independent.lean` rather than
the directive's suggested `HexLLLMathlib/Basic.lean`: that's where
`lll_isLLLReduced`, `lll_independent`, `lll_memLattice_iff` and their
native-branch siblings already live (they depend on the
`HexGramSchmidtMathlib.Update` / Bareiss surface), and the
unconditional Euclidean theorems compose those directly.

Verified:
- `lake build HexLLLMathlib` green at `64d6ffc7`;
- `grep -nE '\bsorry\b|\baxiom\b|\bnative_decide\b' HexLLLMathlib/`
  reports no matches.

No `*-mathlib` proof term depends on a `sorry`-bearing Mathlib-free
lemma. D6 is resolved as already-done by #6633 + #6624. Closing.
